US08536197B2
(99a) Ethyl 5-ethyl-2-(4-nitrophenyl)-1,3-oxazole-4-carboxylate
Dioxane (30 mL) was added to ethyl 5-ethyl-1,3-oxazole-4-carboxylate (described in Armarego, Wilfred L. F.; Taguchi, Hiroyasu; Cotton, Richard G. H.; Battiston, Sandra; Leong, Lillian; Eur. J. Med. Chem. Chim. Ther.; 22; 1987; 283-292, 1.69 g, 10 mmol), 1-iodo-4-nitrobenzene (2.74 g, 11 mmol), palladium acetate (179.6 mg, 0.8 mmol), tris(2-methylphenyl)phosphine (0.49 g, 1.6 mmol) and cesium carbonate (3.25 g, 10 mmol), and the mixture was stirred at 100° C. for 13 hours. Water was added, followed by extraction with ethyl acetate and washing with brine. This was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=5/1, 3/1, 2/1) to obtain 1.08 g of the title compound as a colorless solid (37%).

reactant | ethyl 5-ethyl-1,3-oxazole-4-carboxylate | 10 mmol, 1.69 g | C(C)C1=C(N=CO1)C(=O)OCC | C8H11NO3
reactant | 1-iodo-4-nitrobenzene | 11 mmol, 2.74 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | tris(2-methylphenyl)phosphine | 1.6 mmol, 0.49 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | cesium carbonate | 10 mmol, 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.8 mmol, 179.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
solvent | Dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Ethyl 5-ethyl-2-(4-nitrophenyl)-1,3-oxazole-4-carboxylate | 1.08 g, 37% | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C14H14N2O5
